US04391627
N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]benzothiophene-3-sulfonamide
To 1.4 g of 2-amino-4-methoxy-6-methyl-1,3,5-triazine in 25 ml acetonitrile was added 2.4 g of benzothiophene-3-sulfonyl isocyanate with stirring. After stirring overnight at ambient temperature the mixture was filtered and the precipitate was washed with butyl chloride to yield 2.8 g of a white solid, m.p. 187°-188°. It showed absorption peaks by Nuclear Magnetic Resonance (60 MC) at 2.25 and 3.9 (methyl and methoxy in triazine), at 7-8 (benzo hydrogens) and 8.3 δ (thiophene hydrogen) consistent for the desired product.

reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 1.4 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
reactant | benzothiophene-3-sulfonyl isocyanate | 2.4 g | S1C=C(C2=C1C=CC=C2)S(=O)(=O)N=C=O | C9H5NO3S2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | N-[(4-methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]benzothiophene-3-sulfonamide | 2.8 g | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C1=CSC2=C1C=CC=C2 | C14H13N5O4S2
